US04182776
Ethyl 2-[p-(benzyloxy)phenoxy]propionate
To 20.0 g of p-(benzyloxy)phenol in 80 ml of dry hexamethylphosphoramide is added 5.4 g of sodium methoxide. The mixture is stirred 10 minutes and 18.1 g of ethyl 2-bromopropionate is added (exotherm). After 15 minutes the mixture is heated on a steam bath for 16 hours. The mixture is poured onto ice, extracted with ether, the ether extracts washed with water, dried over magnesium sulfate and concentrated in vacuo to give off-white crystals, mp 36°-44° C. Two recrystallizations from ethanol give off-white crystals, mp 46°-49° C.

reactant | p-(benzyloxy)phenol | 20.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | sodium methoxide | 5.4 g | C[O-].[Na+]
reactant | ethyl 2-bromopropionate | 18.1 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | hexamethylphosphoramide | 80 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl 2-[p-(benzyloxy)phenoxy]propionate | C(C1=CC=CC=C1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C18H20O4
